US04536391
A 16.1 g (0.1 mol) quantity of 4-(3hydroxypropyl)benzonitrile was admixed with 27.8 ml (0.2 mol) of triethylamine and 300 ml of methylene chloride. To the mixture was added 15.5 ml (0.2 mol) of methanesulfonyl chloride at 0° C. The reaction mixture was stirred at room temperature for 12 hours and then concentrated. The concentrate was diluted with 500 ml of benzene, and washed with saturated aqueous solution of sodium chloride. The washed dilution was dried over Na2SO4 and concentrated, giving 24.0 g (yield 100%) of crude 4-(3-mesyloxypropyl)benzonitrile in the form of an oil.

reactant | 4-(3hydroxypropyl)benzonitrile | OCCCC1=CC=C(C#N)C=C1 | C10H11NO
reactant | triethylamine | 0.2 mol, 27.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.2 mol, 15.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-mesyloxypropyl)benzonitrile | 24.0 g, yield 100% | S(=O)(=O)(C)OCCCC1=CC=C(C#N)C=C1 | C11H13NO3S
